US03962438
A mixture of 11.7 g. (0.07 mol.) of 2-amino-4-propylbenzenethiol, 17.4 g. (0.07 mol.) of 2-bromo-3-nitrobenzoic acid, 38.7 g. (0.28 mol.) of anhydrous potassium carbonate and 6 g. (0.03 mol.) of sodium hydrosulfite in 125 ml. of dimethylformamide is stirred and heated for two hours at 125°-130°. The reaction mixture is cooled and stirred into 1000 ml. of dilute acetic acid. The solid that separates is collected, washed with water and dried to give 8-propylphenothiazine-1-carboxylic acid.

reactant | 2-amino-4-propylbenzenethiol | 0.07 mol | NC1=C(C=CC(=C1)CCC)S | C9H13NS
reactant | 2-bromo-3-nitrobenzoic acid | 0.07 mol | BrC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4BrNO4
reactant | potassium carbonate | 0.28 mol | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrosulfite | 0.03 mol | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-propylphenothiazine-1-carboxylic acid | C(CC)C1=CC=C2SC=3C=CC=C(C3NC2=C1)C(=O)O | C16H15NO2S
